US06245328B1
3.8 g (24 mmol) of tert-butyldimethylsilyl chloride were added at −10° C. over the course of 10 minutes in 5 portions to a stirred solution of 2.05 g (20.5 mmol) of (3R)-1-hexen-3-ol and 3.4 g (49 mmol) of imidazole in 50 ml of dry dimethylformamide. After 3 hours at 0° C., the reaction mixture was poured into 200 ml of saturated aqueous sodium hydrogen carbonate solution. The mixture was extracted three. times with 50 ml of n-hexane in each case. The combined organic phases were washed with water and concentrated sodium chloride solution. After drying over anhydrous sodium sulfate and removing the solvent, the residue was chromatographed on 300 g of silica gel. The eluent used was a mixture of 5% by volume ethyl acetate in n-hexane. (3R)-3-(tert-butyldimethylsilyloxy)-1-hexene was obtained as a colorless oil in 91.6% yield ([α]D19=−5.3° (c=2.4 in trichloromethane)).

reactant | tert-butyldimethylsilyl chloride | 24 mmol, 3.8 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | (3R)-1-hexen-3-ol | 20.5 mmol, 2.05 g | C=C[C@@H](CCC)O | C6H12O
reactant | imidazole | 49 mmol, 3.4 g | N1C=NC=C1 | C3H4N2
reactant | sodium hydrogen carbonate | 200 ml | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | (3R)-3-(tert-butyldimethylsilyloxy)-1-hexene | 91.6% yield | [Si](C)(C)(C(C)(C)C)O[C@@H](C=C)CCC | C12H26OSi
